US05098900
Into a mixture comprising 7 g of 4-carboxy-N-t-butoxycarbonylbenzylamine obtained by reacting 4-aminomethylbenzoic acid with di-t-butyl dicarbonate in the presence of sodium hydroxide in a usual manner, 6.36 g of triethylamine and 150 ml of dichloromethane, 4.14 g of ethyl chloroformate was gradually added under stirring and cooling with ice. After the completion of the dropwise addition, the mixture was stirred under cooling with ice for one hour, and 2.51 g of dimethylamine hydrochloride was added thereto at the same temperature. The ice bath was removed, and the reaction solution was stirred at room temperature for 30 minutes. The reaction solution was washed successively with an aqueous sodium hydrogencarbonate solution, water, a 10% citric acid aqueous solution and water, and dried over sodium sulfate, and then the solvent was distilled off. The residue thereby obtained was subjected to silica gel column chromatography (developer; CHCl3 :MeOH =19:1, v/v) to obtain 3.22 g of 4-dimethylaminocarbonyl-N-t-butoxycarbonylbenzylamine as a yellow oily substance.

reactant | 4-aminomethylbenzoic acid | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl chloroformate | 4.14 g | ClC(=O)OCC | C3H5ClO2
reactant | dimethylamine hydrochloride | 2.51 g | Cl.CNC
solvent | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | triethylamine | 6.36 g | C(C)N(CC)CC | C6H15N
product | 4-dimethylaminocarbonyl-N-t-butoxycarbonylbenzylamine | 3.22 g | CN(C(=O)C1=CC=C(CNC(=O)OC(C)(C)C)C=C1)C | C15H22N2O3
